US05571921
1-Bromo-2-(2,4-difluorophenyl)amino-2-oxoethane
5.16 g (40 mmol) of 2,4-difluoroaniline and 6.3 g (40 mmol) of bromoacetyl chloride are treated in 200 ml of dichloromethane with 5.17 g (40 mmol) of Hunig base. After 4 h, the mixture is washed twice with 1N hydrochloric acid and once with water, dried (MgSO4) and concentrated.

reactant | 2,4-difluoroaniline | 40 mmol, 5.16 g | FC1=C(N)C=CC(=C1)F | C6H5F2N
reactant | bromoacetyl chloride | 40 mmol, 6.3 g | BrCC(=O)Cl | C2H2BrClO
reactant | Hunig base | 40 mmol, 5.17 g | CCN(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 1-Bromo-2-(2,4-difluorophenyl)amino-2-oxoethane | BrCC(=O)NC1=C(C=C(C=C1)F)F | C8H6BrF2NO
